Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Felt dizzy, fell off chair, questionable left facial droop
 
Major Surgical or Invasive Procedure:
NON

 
History of Present Illness:
___ year old man with Alzheimer's for at least ___ years, s/p
liver transplant in ___ (HBV) presenting after a fall at adult
daycare today with ? transient L facial droop and ? change in
chronic/intermittent dizziness. 

There are no prior neurology notes in the system but his wife
___ speaking only, contact info below, provides the whole
history) says that at least since ___ his memory has been poor
and he has required progressively more help with all ADLs. Over
the past few years, he has had some sort of dizziness which
cannot be further described. I get the impression that it is
intermittent (? worse with standing) but the patient does not
directly answer the question and his wife cannot aid. 

He was at adult daycare today and got up from a chair and fell 
or
fell out of a chair; unclear. At some point, dizziness was an
issue although virtually no other details on the subject
(quality, duration, difference from baseline) can be elicited. 
At
least there was no nausea associated. Per the ED, it was after
the fall that the patient's left face was thought to droop and
EMS was called. Wife was with him at that time and doesn't
remember face drooping, but did tell the ED team on his arrival
to ___ that the left lip looked abnormal. 

On arrival, VS 67 145/61 18 100% RA. The initial ED team exam
showed ? left face droop, impersistence raising legs off the 
bed,
incorrect month & age. No facial droop noted on neurology team's
exam. ___ showed extensive atrophy and calcific disease 
without
any obviously acute ischemia. Angiography was deferred due to
poor CrCl. 

ROS is limited but he does not have any head/neck pain, chest
pain, abdominal pain, dyspnea, cough. He denies focal weakness 
or
numbness. He has chronic dizziness and leg pain. Reports
irritation from the left forearm PIV
 
Past Medical History:
 liver cancer diagnosed in ___, s/p liver transplant in ___
and he has been doing well under the care of ___ in
___
- chronic hepatitis B, on antiviral treatments
- HTN
- BPH
- Alz disease under the care of ___
- Chronic low back and leg pain, not sure of exact duration. 
- Anxiety
- Dizziness going back years, ? intermittent vs constant, 
unclear
frequency or provoking factors. Cannot elicit quality.
 
Social History:
___
Family History:
___ 
 
Physical Exam:
69 144/67 18 100% RA 
General: No distress, elderly
Head: No ptosis. Prominent arcus senilis.
Neck: Moves easily without apparent pain; does not participate 
to
direct testing. No bruits.
Cardiac: Faint sounds, no obvious murmur or irregularity. 
Pulm: Poor participation, non-labored
Extrem: No edema
Neurologic
 - Mental status: Attends best to his wife; does not answer all
questions (though still responsive during those periods).
Occasionally speaks a fluent sentence of ___. Can follow
spoken commands in ___ inconsistently. Does not know his 
own
age (said ___), thought the month was ___, thought the year was
sometime in the 1980s and did not answer when asked where he 
was.
Did not respond to registration or recall. Did not participate
with naming from the stroke card. Speech was not obviously
dysarthric listening to the few words he did speak. Notably his
wife says that all of this is baseline. Could not participate
with cookie thief. 
 - Cranial nerves: Pupils 2 -> 1.5 ___. BTT bilaterally, could 
not
participate with formal fields/DSS or finger counting. Tends to
look ahead; tracked wife with extensive encouragement showing
full versions to the right and near-full or full to the left.
Oculocephalics difficult due to resistance. Facial activation
with coaching was full symmetrically, winces to pin b/l. No
obvious dysphonia though I could not see the palate. 
 - Motor: Mild gegenhalten throughout with a L>>R ___ and
___ toes bilaterally. At least anti-gravity throughout and
sometimes provides good resistance (i.e. R Triceps) but so
infrequently that a more detailed exam was impossible. 
 - Sensory: Sensitive to pin throughout (winces/yells), possible
R/L asymmetries but did not answer follow-up questions. With
extensive coaching, able to sense hallux proprioception to at
least very large deviations. Deferred Romberg.
 - Reflexes: Brisk throughout, slightly more so on the left. 
 - Cerebellar: No obvious ataxia with reach, but difficult to
test formally (even with pantomime).
 - Gait: Slow and unsteady to get up, mildly wide base. Takes a
few shuffling steps (walker at baseline). Wife thinks gait is
baseline.
Discharge Exam:
MS : oriented to hospital and attends to his wife. She says he 
would not be able to know day of the week. Per his wife his 
speech is at baseline.
CN: Pupils reactive and brisk b/l, ___, EOMI intact - doe snot 
participate in formal Testing . No facial asymmetry . 
Motor: Moves all extremities against gravity able to walk from 
bed into his chair. 

 
Pertinent Results:
___ 07:10PM   ALT(SGPT)-9 AST(SGOT)-15 LD(LDH)-200 ALK 
PHOS-87 TOT BILI-0.5
___ 07:10PM   cTropnT-<0.01
___ 07:10PM   ALBUMIN-4.2 CALCIUM-10.4* PHOSPHATE-3.1 
MAGNESIUM-2.0
___ 07:10PM   %HbA1c-7.1* eAG-157*
___ 07:10PM   TSH-1.2
___ 07:10PM   CYCLSPRN-155
___ 07:10PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG
___ 10:45AM   CREAT-1.8*
___ 10:45AM   estGFR-Using this
___ 10:45AM   cTropnT-<0.01
 
Brief Hospital Course:
Patient was admitted for concerns of a stroke . He had a NCHCT 
and a brain MRI which showed no stroke . We continued his home 
medications and he was evaluated by SS who cleared for regular 
diet . ___ recommended rehab but his wife expressed wishes to 
continue to take care of him at home . She has a 40 hrs /week 
aid service and has been capable of taking care of him . His 
wife confirmed he is at baseline and believe that he fell off 
the chair because it had no sides rather than he was dizzy. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CycloSPORINE (Neoral) MODIFIED 100 mg PO DAILY 
2. Entecavir 0.5 mg PO DAILY 
3. Finasteride 5 mg PO DAILY 
4. Gabapentin 800 mg PO TID 
5. Lactulose 15 mL PO Q8H:PRN constipation 
6. Lisinopril 20 mg PO DAILY 
7. Memantine 10 mg PO BID 
8. rivastigmine 9.5 mg/24 hr transdermal TID 
9. Tamsulosin 0.4 mg PO QHS 
10. Oxybutynin 5 mg PO DAILY 
11. Calcium Carbonate 600 mg PO BID 
12. Vitamin D 1000 UNIT PO DAILY 
13. Fish Oil (Omega 3) 1000 mg PO DAILY 
14. Ascorbic Acid ___ mg PO DAILY 

 
Discharge Medications:
1. Entecavir 0.5 mg PO DAILY 
2. Finasteride 5 mg PO DAILY 
3. Gabapentin 800 mg PO TID 
4. Lactulose 15 mL PO Q8H:PRN constipation 
5. Lisinopril 20 mg PO DAILY 
6. Memantine 10 mg PO BID 
7. Oxybutynin 5 mg PO DAILY 
8. Tamsulosin 0.4 mg PO QHS 
9. Ascorbic Acid ___ mg PO DAILY 
10. Calcium Carbonate 600 mg PO BID 
11. CycloSPORINE (Neoral) MODIFIED 100 mg PO DAILY 
12. Fish Oil (Omega 3) 1000 mg PO DAILY 
13. rivastigmine 9.5 mg/24 hr transdermal TID 
14. Vitamin D 1000 UNIT PO DAILY 
15. Rollator Walker 
ICD-9 code : ___.2

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Dizziness 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,
You were admitted to ___ for an unclear event of dizziness 
which led to a fall of a chair and a reported left facial droop 
concerning for a new stroke/TIA. You had brain imaging which was 
negative for a new stroke. Your exam showed no facial droop .Our 
speech and swallow team and was cleared for regular diet by 
mouth, ___ recommended rehab but your wife expressed her 
wishes to have you back home with her given that she is capable 
of taking care of you the help of the aid who comes 40 hours a 
week. 
 
Followup Instructions:
___